US07271262B2
247E. 1-[3-(4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-ylsulfanyl)-phenyl]-3-(2,6-difluoro-phenyl)-urea
To a round-bottom flask with pyridine (3 mL) was added 5-(3-Amino-phenylsulfanyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (16.3 mg, 0.05 mmole) and 1,3-Difluoro-2-isocyanato-benzene (15.5 mg, 0.1 mmole). The reaction mixture was stirred at room temperature overnight and extracted with EtOAc (40 mL) and water (40 mL). The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated. Purification through flash column (methylene chloride/methanol: 96/4) gave the title compound as a light yellow solid (9.8 mg, 41%). MS: 481.1 (MH+); HPLC Rf: 7.559 min.; HPLC purity: 96%.

reactant | 5-(3-Amino-phenylsulfanyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 0.05 mmole, 16.3 mg | NC=1C=C(C=CC1)SC1=CN(C=2N=CN=C(C21)N)C2CCCC2 | C17H19N5S
reactant | 1,3-Difluoro-2-isocyanato-benzene | 0.1 mmole, 15.5 mg | FC1=C(C(=CC=C1)F)N=C=O | C7H3F2NO
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 1-[3-(4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-ylsulfanyl)-phenyl]-3-(2,6-difluoro-phenyl)-urea | 9.8 mg, 41% | NC=1C2=C(N=CN1)N(C=C2SC=2C=C(C=CC2)NC(=O)NC2=C(C=CC=C2F)F)C2CCCC2 | C24H22F2N6OS
